US09359362B2
(rac)-4-(6-Acetyl-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]pyrimidin-7-yl)benzonitrile
Under an atmosphere of argon protective gas, (rac)-4-(6-acetyl-5-methyl-4,7-dihydrotetrazolo[1,5-a]pyrimidin-7-yl)benzonitrile (50 mg, 178 μmol) was stirred in abs. dichloromethane (3 ml) with molecular sieve (0.5 g, 4 Å) for 1 h. 3-(Trifluoromethyl)phenylboronic acid (101.6 mg, 535 μmol, 3 eq.), anhydrous copper(II) acetate (97.2 mg, 535 μmol, 3 eq.), abs. pyridine (115 μl, 1.43 mmol, 8 eq.) and triethylamine (54.2 mg, 535 μmol, 3 eq.) were then added, and the mixture was stirred at RT for 12 h. More molecular sieve (0.5 g, 4 Å), 3-(trifluoromethyl)phenylboronic acid (33 mg, 178 μmol, 1 eq.), anhydrous copper(II) acetate (32 mg, 178 μmol, 1 eq.), triethylamine (18.1 mg, 178 μmol, 1 eq.) and abs. pyridine (57.5 μl, 715 μmol, 4 eq.) were then added, and the mixture was stirred at RT for a further 12 h. The reaction mixture was then filtered through kieselguhr, the filter residue was washed with dichloromethane and methanol and the filtrate was concentrated to dryness. The residue was purified by preparative HPLC (Gromsil C18 column, 10 μm; mobile phase: acetonitrile/water+0.1% TFA 10:90→90:10). The product was obtained as a colorless solid (14.6 mg, 19% of theory).

reactant | (rac)-4-(6-acetyl-5-methyl-4,7-dihydrotetrazolo[1,5-a]pyrimidin-7-yl)benzonitrile | 178 μmol, 50 mg | C(C)(=O)C1=C(NC=2N(C1C1=CC=C(C#N)C=C1)N=NN2)C | C14H12N6O
reactant | 3-(Trifluoromethyl)phenylboronic acid | 535 μmol, 101.6 mg, 3 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | pyridine | 1.43 mmol, 115 μl, 8 eq. | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 535 μmol, 54.2 mg, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)phenylboronic acid | 178 μmol, 33 mg, 1 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | triethylamine | 178 μmol, 18.1 mg, 1 eq. | C(C)N(CC)CC | C6H15N
reactant | pyridine | 715 μmol, 57.5 μl, 4 eq. | N1=CC=CC=C1 | C5H5N
catalyst | copper(II) acetate | 535 μmol, 97.2 mg, 3 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper(II) acetate | 178 μmol, 32 mg, 1 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (rac)-4-(6-Acetyl-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]pyrimidin-7-yl)benzonitrile | C(C)(=O)C1=C(N(C=2N(C1C1=CC=C(C#N)C=C1)N=NN2)C2=CC(=CC=C2)C(F)(F)F)C | C21H15F3N6O
